US08466143B2
A. Preparation of 2-(1-tert-butoxycarbonyl indol-3-yl)propionitrile
To a stirred solution of (1-tert-butoxycarbonyl indol-3-yl)acetonitrile (5.30 g, 20.7 mmol) in THF (20 mL, anhyd) chilled to −78° C. was added dropwise a 1.0M solution of LiHMDS in THF (21 mL, 21 mmol). After 40 min iodomethane (1.3 mL, 21 mmol) was added rapidly, and the reaction mixture was allowed to warm to ambient temperature. After 15 h the reaction was quenched by addition of 0.2N HCl (100 mL) and extracted with Et2O (2×100 mL). The combined extracts were washed with brine, dried (Na2SO4), concentrated and chromatographed (silica gel, 6% EtOAc/Hex) to give the title compound (4.0 g, 71%) as a light yellow oil. 1H-NMR (CDCl3): δ 8.17 (1H, br d), 7.60 (2H, m), 7.37 (1H, br d), 7.30 (1H, app t), 4.10 (1H, q), 1.76 (3H, d), 1.68 (9H, s).

reactant | (1-tert-butoxycarbonyl indol-3-yl)acetonitrile | 20.7 mmol, 5.30 g | C(C)(C)(C)OC(=O)N1C=C(C2=CC=CC=C12)CC#N | C15H16N2O2
reactant | LiHMDS | [Li+].C[Si](C)(C)[N-][Si](C)(C)C
reactant | iodomethane | 21 mmol, 1.3 mL | IC | CH3I
solvent | THF | C1CCOC1 | C4H8O
solvent | THF | 21 mmol, 21 mL | C1CCOC1 | C4H8O
product | 2-(1-tert-butoxycarbonyl indol-3-yl)propionitrile | 4.0 g, 71% | C(C)(C)(C)OC(=O)N1C=C(C2=CC=CC=C12)C(C#N)C | C16H18N2O2
